* Node assignments
*                non-inverting input
*                | inverting input
*                | | positive supply
*                | | |  negative supply
*                | | |  |  output
*                | | |  |  |
.SUBCKT AD8009 1 2 99 50 28

* input stage *

q1 50 3 5 qp1
q2 99 5 4 qn1
q3 99 3 6 qn2
q4 50 6 4 qp2
i1 99 5 1.625e-3
i2 6 50 1.625e-3
cin1 1 98 2.6e-12
cin2 2 98 1e-12
v1 4 2 0

* input error sources *

eos 3 1 poly(1) 20 98 2e-3 1
fbn 2 98 poly(1) vnoise3 50e-6 1e-3
fbp 1 98 poly(1) vnoise3 50e-6 1e-3

* slew limiting stage *

fsl 98 16 v1 1
dsl1 98 16 d1
dsl2 16 98 d1
dsl3 16 17 d1
dsl4 17 16 d1
rsl  17 18 0.22
vsl  18 98 0

* gain stage *

f1 98 7 vsl 2
rgain 7 98 2.5e5
cgain 7 98 1.25e-12
dcl1 7 8 d1
dcl2 9 7 d1
vcl1 99 8 1.83
vcl2 9 50 1.83

gcm 98 7 poly(2) 98 0 30 0 0 1e-5 1e-5

* second pole *

epole 14 98 7 98 1
rpole 14 15 1
cpole 15 98 2e-10

* reference stage *

eref 98 0 poly(2) 99 0 50 0 0 0.5 0.5 

ecmref 30 0 poly(2) 1 0 2 0 0 0.5 0.5

* vnoise stage *

rnoise1 19 98 4.6e-3
vnoise1 19 98 0
vnoise2 21 98 0.53
dnoise1 21 19 dn

fnoise1 20 98 vnoise1 1
rnoise2 20 98 1

* inoise stage *

rnoise3 22 98 8.18e-6
vnoise3 22 98 0
vnoise4 24 98 0.575
dnoise2 24 22 dn

fnoise2 23 98 vnoise3 1
rnoise4 23 98 1

* buffer stage *

gbuf 98 13 15 98 1e-2
rbuf 98 13 1e2

* output current reflected to supplies *

fcurr 98 40 voc 1
vcur1 26 98 0
vcur2 98 27 0
dcur1 40 26 d1
dcur2 27 40 d1

* output stage *

vo1 99 90 0
vo2 91 50 0
fout1 0 99 poly(2) vo1 vcur1 -9.27e-3 1 -1
fout2 50 0 poly(2) vo2 vcur2 -9.27e-3 1 -1 
gout1 90 10 13 99 0.5
gout2 91 10 13 50 0.5
rout1 10 90 2
rout2 10 91 2
voc 10 28 0
rout3 28 98 1e6
dcl3 13 11 d1
dcl4 12 13 d1
vcl3 11 10 -0.445
vcl4 10 12 -0.445

.model qp1 pnp()
.model qp2 pnp()
.model qn1 npn()
.model qn2 npn()
.model d1  d()
.model dn  d(af=1 kf=1e-8)
.ends





